US09315475B2
Step 2: tert-butyl (2S,5S)-2-[(2-amino-6-fluorophenoxy)methyl]-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)morpholine-4-carboxylate
Dissolved tert-butyl (2S,5S)-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-[(2-fluoro-6-nitrophenoxy)methyl]morpholine-4-carboxylate (1.68 g, 3.36 mmol) in ethyl acetate (11.19 mL) and to this solution, carefully added 10% Pd/C (0.714 g, 0.671 mmol). A hydrogen filled balloon was attached and the contents were evacuated and backfilled with H2 several times. Stirred at room temperature for 4 hours. Complete at this time by LC/MS. The solids were filtered off through a pad of celite and washed with ethyl acetate and ethanol. The contents were concentrated and then purified on silica gel (40 g) eluting with a gradient of 0-90% EtOAc/hexanes afforded the title compound (1.57 g, 3.34 mmol, 100% yield) as a yellow oil,

reactant | tert-butyl (2S,5S)-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-[(2-fluoro-6-nitrophenoxy)methyl]morpholine-4-carboxylate | 3.36 mmol, 1.68 g | [Si](C)(C)(C(C)(C)C)OC[C@@H]1CO[C@@H](CN1C(=O)OC(C)(C)C)COC1=C(C=CC=C1[N+](=O)[O-])F | C23H37FN2O7Si
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 11.19 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 0.671 mmol, 0.714 g | [Pd] | Pd
product | tert-butyl (2S,5S)-2-[(2-amino-6-fluorophenoxy)methyl]-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)morpholine-4-carboxylate | 3.34 mmol, 1.57 g, 100% yield | NC1=C(OC[C@@H]2CN([C@@H](CO2)CO[Si](C)(C)C(C)(C)C)C(=O)OC(C)(C)C)C(=CC=C1)F | C23H39FN2O5Si
